US05223498
A mixture of 1-methyl-3-(5-methyl-2-morpholinophenyl)thiourea (6.4 g) and methyl iodide (3.8 g) in acetone (60 ml) was heated at reflux for 4 hours to give 2-methyl-1-(5-methyl-2-morpholinophenyl)-3-methyl-2-thiopseudourea hydroiodide as a pale yellow solid (m.p. 160°-161° C.).

reactant | 1-methyl-3-(5-methyl-2-morpholinophenyl)thiourea | 6.4 g | CNC(=S)NC1=C(C=CC(=C1)C)N1CCOCC1 | C13H19N3OS
reactant | methyl iodide | 3.8 g | CI | CH3I
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 2-methyl-1-(5-methyl-2-morpholinophenyl)-3-methyl-2-thiopseudourea hydroiodide | I.CSC(NC1=C(C=CC(=C1)C)N1CCOCC1)=NC | InChI=1S/C14H21N3OS.HI/c1-11-4-5-13(17-6-8-18-9-7-17)12(10-11)16-14(15-2)19-3;/h4-5,10H,6-9H2,1-3H3,(H,15,16);1H
